US08242104B2
Following the procedure in Example 22, methyl 2-((dimethylamino)methylenecarbamoyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate was coupled with 2-chlorophenylhydrazine hydrochloride to give methyl 2-(1-(2-chlorophenyl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate. Yield 59%. MS (ESI+): 422.1

reactant | methyl 2-((dimethylamino)methylenecarbamoyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | CN(C)C=NC(=O)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C17H18N4O4
reactant | 2-chlorophenylhydrazine hydrochloride | Cl.ClC1=C(C=CC=C1)NN
product | methyl 2-(1-(2-chlorophenyl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | Yield 59% | ClC1=C(C=CC=C1)N1N=CN=C1C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C21H16ClN5O3
